US08471005B2
{7-[4-(1,1-Dioxo-1$1(6)-thiomorpholin-4-ylmethyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl}-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine
Palladium acetate (25.5 mg, 0.114 mmol) and triphenylphosphine (65.6 mg, 0.250 mmol) were dissolved in 1,4-dioxane (2.00 mL) and the mixture was purged with nitrogen for 10 minutes. (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine (110 mg, 0.284 mmol), 4-[(4-boronophenyl)methyl]-thiomorpholine 1,1-dioxide (306 mg, 1.14 mmol), N,N-dimethylformamide (2.00 mL) and 1.50 M sodium carbonate in water (0.379 mL, 0.568 mmol) were added. The reaction mixture was heated at 90° C. overnight and then partitioned between water (50 mL) and dichloromethane (50 mL). The organic layer was washed with water (50 mL) and brine (25 mL) and then dried over Na2SO4. Purification by silica gel chromatography using a gradient of 0-10% MeOH/DCM as the eluting solvent to obtain the title compound as a yellow-brown foam (151 mg, 100%). LCMS (m/e) 532 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.69 (s, 1H), 8.13 (d, 2H, J=7.4 Hz), 7.54 (d, 2H, J=7.8 Hz), 7.41 (d, 2H, J=7.8 Hz), 7.02-6.90 (m, 3H), 6.84-6.78 (m, 1H), 6.70-6.62 (m, 1H), 3.73 (s, 2H), 3.23-3.15 (m, 4H), 3.13-3.00 (m, 8H), 2.66-2.57 (m, 4H), 2.38 (s, 3H).

reactant | triphenylphosphine | 0.250 mmol, 65.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 0.284 mmol, 110 mg | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C | C17H19BrN6
reactant | 4-[(4-boronophenyl)methyl]-thiomorpholine 1,1-dioxide | 1.14 mmol, 306 mg | B(O)(O)C1=CC=C(C=C1)CN1CCS(CC1)(=O)=O | C11H16BNO4S
reactant | sodium carbonate | 1.50 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 0.568 mmol, 0.379 mL | O | H2O
solvent | 1,4-dioxane | 2.00 mL | O1CCOCC1 | C4H8O2
catalyst | Palladium acetate | 0.114 mmol, 25.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | N,N-dimethylformamide | 2.00 mL | CN(C=O)C | C3H7NO
product | {7-[4-(1,1-Dioxo-1$1(6)-thiomorpholin-4-ylmethyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl}-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 151 mg, 100% | O=S1(CCN(CC1)CC1=CC=C(C=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C)=O | C28H33N7O2S
